US08461158B2
A mixture of 2,4-dichloro-6-(4-morpholinyl)-1,3,5-triazine (0.47 g, 2 mmol), tert-butyl 4-hydroxy-1-piperidinecarboxylate (0.40 g, 2 mmol), and a small excess of NaH (58 mg, 2.4 mmol) in THF (20 mL) was stirred at room temperature overnight. The reaction was quenched with water, and the mixture was extracted with EtOAc. Chromatography on silica eluting with CH2Cl2/EtOAc (9:1) gave 0.65 g (81% yield) of tert-butyl 4-(4-chloro-6-morpholino-1,3,5-triazin-2-yloxy)piperidine-1-carboxylate as a white solid: mp (i-Pr2O) 150-152° C.; 1H NMR (CDCl3) ε 5.18 (tt, J=7.7, 3.8 Hz, 1H), 3.87 (m, 2H), 3.83 (m, 2H), 3.78-3.71 (m, 6H), 3.30 (ddd, J=13.5, 8.3, 3.8 Hz, 2H), 1.95 (m, 2H), 1.78 (m, 2H), 1.46 (s, 9H); Anal. Calcd. for C17H26ClN5O4: C, 51.06; H, 6.55; N, 17.51. Found: C, 51.21; H, 6.28; N, 17.4%.

reactant | 2,4-dichloro-6-(4-morpholinyl)-1,3,5-triazine | 2 mmol, 0.47 g | ClC1=NC(=NC(=N1)Cl)N1CCOCC1 | C7H8Cl2N4O
reactant | tert-butyl 4-hydroxy-1-piperidinecarboxylate | 2 mmol, 0.40 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | NaH | 2.4 mmol, 58 mg | [H-].[Na+]
reactant | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(4-chloro-6-morpholino-1,3,5-triazin-2-yloxy)piperidine-1-carboxylate | 0.65 g, 81% yield | ClC1=NC(=NC(=N1)N1CCOCC1)OC1CCN(CC1)C(=O)OC(C)(C)C | C17H26ClN5O4
